US08461185B2
Step C: 4′-Methyl-5-(5-oxa-6-azaspiro[3.4]oct-6-en-7-yl)-N-[(1S)-1-(4H-1,2,4-triazol-3-yl)ethyl]biphenyl-3-carboxamide
To a solution of 4′-methyl-5-(5-oxa-6-azaspiro[3.4]oct-6-en-7-yl)biphenyl-3-carboxylic acid (0.15 g, 0.47 mmol) in N,N-dimethylformamide (3 mL) were added (1S)-1-(4H-1,2,4-triazol-3-yl)ethanamine hydrochloride salt (0.12 g, 0.65 mmol), EDC (0.13 g, 0.70 mmol), HOAT (0.06 g, 0.47 mmol) and triethylamine (0.39 mL, 2.80 mmol). The reaction mixture was heated to 50° C. After 1 h, the mixture was cooled to ambient temperature. Saturated aqueous NaHCO3 was added and the mixture was extracted with ethyl acetate (3×). The combined organic extracts were washed with water (3×), brine, dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→90% dichloromethane/methanol) gave the title compound (188 mg). The title compound was dissolved in dichloromethane and HCl (2.0 M in ether) was added. The mixture was concentrated gave the hydrochloride salt of the title compound. HRMS 416.2083 (M+1). 1H NMR (400 MHz, CD3OD): δ 9.35 (s, 1H); 8.16 (t, J=1.7 Hz, 1H); 8.11 (t, J=1.6 Hz, 1H); 8.03 (t, J=1.7 Hz, 1H); 7.56 (d, J=7.9 Hz, 2H); 7.26 (d, J=7.8 Hz, 2H); 5.54-5.44 (m, 1H); 3.69-3.45 (m, 2H); 2.52-2.42 (m, 2H); 2.35 (s, 3H); 2.30-2.22 (m, 2H); 1.77 (d, J=7.1 Hz, 2H).

reactant | 4′-methyl-5-(5-oxa-6-azaspiro[3.4]oct-6-en-7-yl)biphenyl-3-carboxylic acid | 0.47 mmol, 0.15 g | CC1=CC=C(C=C1)C1=CC(=CC(=C1)C1=NOC2(CCC2)C1)C(=O)O | C20H19NO3
reactant | (1S)-1-(4H-1,2,4-triazol-3-yl)ethanamine hydrochloride salt | 0.65 mmol, 0.12 g | Cl.N=1N=C(NC1)[C@H](C)N
reactant | EDC | 0.70 mmol, 0.13 g
reactant | HOAT | 0.47 mmol, 0.06 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | triethylamine | 2.80 mmol, 0.39 mL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 4′-Methyl-5-(5-oxa-6-azaspiro[3.4]oct-6-en-7-yl)-N-[(1S)-1-(4H-1,2,4-triazol-3-yl)ethyl]biphenyl-3-carboxamide | 188 mg | CC1=CC=C(C=C1)C1=CC(=CC(=C1)C1=NOC2(CCC2)C1)C(=O)N[C@@H](C)C1=NN=CN1 | C24H25N5O2
